US04959361
The titIe compound was prepared by coupling 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with 6-chloro4-(2-propynyl)-2H-1,4-benzoxazin 3(4H)-one [ref. p. Rao et al. Indian J. Chem. 24 B, 1120 (1985)]as described in Example 37 but the reaction time was extended to 72 hours. The product was isolated by chromatography over the 100 -fold amount of silica gel (Merck 230-400 mesh) using 10% (v/v) of ethanol in methylene chloride. Crystallization of the residue obtained after evaporation of the combined clean fractions from ethyl acetate gave colorless crystals of 6-chloro-4-{3-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3 a][1,4]diazepin-2-yl]-2-propynyl}-2H-1,4-benzoxazin-3(4H)-one with m.p. 202°-205°.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 6-chloro4-(2-propynyl)-2H-1,4-benzoxazin 3(4H)-one | ClC=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C11H8ClNO2
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-chloro-4-{3-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3 a][1,4]diazepin-2-yl]-2-propynyl}-2H-1,4-benzoxazin-3(4H)-one | ClC=1C=CC2=C(N(C(CO2)=O)CC#CC2=CC=3C(=NCC=4N(C3S2)C(=NN4)C)C4=C(C=CC=C4)Cl)C1 | C26H17Cl2N5O2S
